US05395846
A mixture of N-trityl-5-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]decan-2-amine (200 mg) combined with ethanolic hydrogen chloride (5 ml) is stirred for an hour at room temperature. This is evaporated to dryness and the components separated via flash chromatography (eluting with 10% MeOH/CH2Cl2) to obtain 5-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]-decan-2-amine hydrochloride (m.p. 278°-281° C.).

reactant | N-trityl-5-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]decan-2-amine | 200 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC1C2CC3CC(CC1C3)(C2)OCC2=CC=C(C=C2)C=2OC3=C(N2)C=CC=C3 | C43H40N2O2
reactant | hydrogen chloride | 5 ml | Cl | ClH
product | 5-[4-(benzoxazol-2-yl)benzyloxy]tricyclo[3.3.1.13,7 ]-decan-2-amine hydrochloride | Cl.O1C(=NC2=C1C=CC=C2)C2=CC=C(COC13CC4C(C(CC(C1)C4)C3)N)C=C2 | InChI=1S/C24H26N2O2.ClH/c25-22-18-9-16-10-19(22)13-24(11-16,12-18)27-14-15-5-7-17(8-6-15)23-26-20-3-1-2-4-21(20)28-23;/h1-8,16,18-19,22H,9-14,25H2;1H
